US04742068
a. (3,4-Dimethoxyphenyl)acetamide
To a solution of 35.31 g (0.18 mole) of (3,4-dimethoxyphenyl)acetic acid in 345 ml of dry toluene and 34.5 ml of dry DMF at 0° C. under argon was added 16.8 ml (0.19 mole) of freshly distilled oxalyl chloride over 40 minutes. The reaction was stirred an additional 35 minutes at 0° C. and then at room temperature for 17 hours. The reaction mixture was again cooled to 0° C. and gaseous ammonia slowly bubbled through it for 1 hour. The reaction mixture was warmed to room temperature and stirred for 4 hours after which the solid was filtered off and partitioned between chloroform and water. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo giving 20.84 g of the title compound as an off-white solid, mp 142°-144° C.

reactant | (3,4-dimethoxyphenyl)acetic acid | 0.18 mole, 35.31 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 34.5 ml | CN(C)C=O | C3H7NO
solvent | toluene | 345 ml | C1(=CC=CC=C1)C | C7H8
product | (3,4-Dimethoxyphenyl)acetamide | 20.84 g | COC=1C=C(C=CC1OC)CC(=O)N | C10H13NO3
